US04469868
A solution of 4.2 g (0.02 mol) of 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine (Ex. 16), 3 ml of triethylamine and 5 ml of 2-methylaziridine in 100 ml of methylene dichloride is allowed to stand at room temperature 20 hours. The solution is washed with saturated sodium bicarbonate solution, dried (MgSO4), and evaporated in vacuo to give 4 g of 1-ethyl-3,5-dimethyl-7-(2-methylaziridinyl)pyrazolo[4,3-d]pyrimidine as an oil, characterized by IR and NMR. The aziridine (4 g, 0.017 mol) in 40 ml of acetone is refluxed 1.5 hours with 3 g (0.02 mol) of sodium iodide. The solution is evaporated in vacuo. The residue is partitioned in 100 ml of methylene dichloride and 30 ml of 20% sodium carbonate solution. The organic layer is separated, dried over magnesium sulfate, and the solvent is evaporated in vacuo to give 2.8 g (71%) of the title compound, mp 145°-147° C. from ethyl acetate-pet ether.

reactant | 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.02 mol, 4.2 g | ClC=1C2=C(N=C(N1)C)C(=NN2CC)C | C9H11ClN4
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylaziridine | 5 ml | CC1NC1 | C3H7N
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-ethyl-3,5-dimethyl-7-(2-methylaziridinyl)pyrazolo[4,3-d]pyrimidine | 4 g | C(C)N1N=C(C=2N=C(N=C(C21)N2C(C2)C)C)C | C12H17N5
